2117-12-08 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Transfer from OSH for evaluation of laryngeal mass,
   RML Bronchial Mass
   24 Hour Events:
   None
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-12-8**] 12:00 AM
   Clindamycin - [**2117-12-8**] 04:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-12-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-8**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.1
   HR: 66 (61 - 85) bpm
   BP: 105/47(61) {94/41(54) - 123/62(72)} mmHg
   RR: 20 (14 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 9 (4 - 12)mmHg
   Total In:
                                                                     89 mL
                                                                    883 mL
   PO:
   TF:
   IVF:
                                                                     89 mL
                                                                    803 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    145 mL
   Urine:
                                                                    300 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -211 mL
                                                                    738 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/46/95.[**Numeric Identifier **]/31/5
   Ve: 7.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General: Intubated, sedated, opens eyes to verbal stimuli and follows
   simple commands, though falling asleep easily.
   HEENT: Sclera anicteric, PERRL small at 2->1, MMM, oropharynx and
   nasopharynx clear without evidence of dried blood.
   Neck: supple, JVP not elevated, no LAD.  RIJ in place and appears
   benign.
   Lungs: Clear to auscultation bilaterally with some decreased air entry
   at R base and occ inspiratory rhonchi posteriorly.
   CV: Regular rate and rhythm, normal S1 + S2, soft SM at LUSB without
   radiation.
   Abdomen:  soft, appears non-tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Neuro: sedated, arouses to loud voice, moving all extremities to
   command.
   Labs / Radiology
   148 K/uL
   7.5 g/dL
   100 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.2 mEq/L
   17 mg/dL
   105 mEq/L
   140 mEq/L
   24.8 %
   10.5 K/uL
        [image002.jpg]
                             [**2117-12-7**]  08:15 PM
                             [**2117-12-8**]  02:42 AM
                             [**2117-12-8**]  03:35 AM
   WBC
   13.1
   10.5
   Hct
   26.8
   24.8
   Plt
   146
   148
   Cr
   0.6
   0.6
   TropT
   0.01
   TCO2
   32
   Glucose
   113
   100
   Other labs: PT / PTT / INR:13.2/34.3/1.1, CK / CKMB /
   Troponin-T:12/3/0.01, ALT / AST:[**4-1**], Alk Phos / T Bili:66/0.2,
   Differential-Neuts:84.1 %, Lymph:7.7 %, Mono:8.0 %, Eos:0.0 %,
   Albumin:2.4 g/dL, LDH:69 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.7
   mg/dL
   Imaging: CXR:
   Microbiology: Sputum: GPC in pairs, culture pending
   Blood Cx: Pending
   Assessment and Plan
   76F with no PMH, longtime smoker, presenting with shortness of breath,
   chest pain, and nausea, now transferred to [**Hospital1 1**] MICU for further
   management of right lung and vocal cord masses.
   .
   # Vocal cord mass.  Differential includes cancer (squamous cell cancer
   or metastatic), benign polyp, abscess, hematoma.  Appearance of this
   unclear given little documentation of bronchoscopy findings thus far.
   Mass was biopsied at OSH.  Main question relates to management of large
   airway obstruction.  For now airway secure after placement of ETT.
   Next approach to take - attempt at ENT/surgical resection vs.
   proceeding with tracheostomy with subsequent addressing of mass.  Able
   to pass 7.0 tube, but does seem to have been symptomatic with dyspnea
   and gagging for at least a month per family.
   - ENT consulted, will formally see in AM and scope.
   - IP consulted, will also see in AM.
   - Possible procedure (trach or ?resection) as early as tomorrow
   afternoon.  Will keep NPO, check coags.
   - Maintain ETT in place overnight.
   - Followup path from OSH; attempt to obtain tissue samples for [**Hospital1 **] path
   review.
   .
   # R lung mass. Review of OSH CT here suggesting entire RLL collapsed,
   but complicated with ?fluid and gas vs. minimal airway patency.
   Differential includes malignancy (primary or metastatic),
   abscess/necrotizing pneumonia (from aspiration or post obstructive),
   sequestration.  Bronched and biopsied today but not entirely clear what
   was seen.  Seems to be having some bleeding from endotracheal
   suctioning, likely from biopsy today.
   - Rebronch with MICU team vs. IP.
   - Consider thoracics consult if/when appropriate.
   - Send sputum and ?BAL.
   - Followup and obtain path as above.
   - Treat empirically for necrotizing pneumonia - clinda and ceftriaxone
   to start; consider better MRSA and/or atypical coverage if not
   improving; tailor abx based on culture data.
   .
   # Respiratory failure.  Intubated in setting of visualization of cord
   mass as above, but also has significant primary lung pathology
   (baseline emphysematous changes, RLL collapse/mass).
   - Maintain intubated on vent until trach or definitive management of
   vocal cord mass.  Hope for early liberation from vent if trach pursued.
   - Patient with baseline chronic respiratory acidosis vs. metabolic
   alkalosis from vomiting; attempt to maintain CO2s in high 40s/low 50s
   (decrease current minute vents).
   - MDIs for management of bronchospasm if present.
   .
   # R pleural effusion.  Malignant vs. parapneumonic vs. simple
   transudative.  Too small on imaging to sample currently.
   - Will discuss with IP.
   - Consider thoracics input as above if concerned re: infection.
   .
   # Mediastinal lymphadenopathy.  Causing L hilar fullness on CXR,
   splicing of carina as well.  More concerning for malignancy as cause,
   but could also be reactive if infection present.
   - Management of mass as above.
   .
   # Anemia. Unknown baseline.  Having some bleeding apparent from ETT s/p
   biopsy, but no other clear losses. Stable since OSH course.
   - Guiaic stools.
   - Check Fe studies, TSH, B12, folate, retics.
   - T&S and will cross 2 units as going to OR possible.
   .
   # Leukocytosis.  Infectious vs. reactive to other process.  Infectious
   etiologies include post obstructive/aspiration pneumonia, urine, blood,
   GI source.
   - send sputum.
   - blood cultures.
   - UA.
   - Antibiotics as above.
   .
   # FEN: No IVF, replete electrolytes, NPO in case of procedure tomorrow.
   # Prophylaxis: Subcutaneous heparin, H2B.
   # Access: RIJ placed at OSH (remove by tomorrow) - resite vs.
   peripherals only.
   # Communication: Husband, children.
   # [**Name2 (NI) 129**]:  Full (discussed with husband)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: Diabetic/Cardiac Diet
   Lines:
   Multi Lumen - [**2117-12-7**] 07:31 PM
   18 Gauge - [**2117-12-7**] 07:31 PM
   Prophylaxis:
   DVT: Subcutaneous Heparin
   Stress ulcer:  H2B
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2117-12-08 09:30:00 Physician Attending Progress Note
Chief Complaint: Vocal cord mass, RLL [**Hospital3 **] Failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No cuff leak this AM
   24 Hour Events:
 MULTI LUMEN - START [**2117-12-7**] 07:31 PM
   placed at outside hospital
 INVASIVE VENTILATION - START [**2117-12-7**] 07:40 PM
 PAN CULTURE - At [**2117-12-7**] 08:00 PM
 NASAL SWAB - At [**2117-12-7**] 08:00 PM
 EKG - At [**2117-12-7**] 08:30 PM
 BLOOD CULTURED - At [**2117-12-7**] 10:44 PM
   second set sent
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-12-8**] 12:00 AM
   Clindamycin - [**2117-12-8**] 04:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-12-8**] 12:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-12-8**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 89 (61 - 89) bpm
   BP: 118/52(69) {94/41(54) - 123/62(72)} mmHg
   RR: 18 (14 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 9 (4 - 12)mmHg
   Total In:
                                                                     89 mL
                                                                  1,043 mL
   PO:
   TF:
   IVF:
                                                                     89 mL
                                                                    833 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    195 mL
   Urine:
                                                                    300 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -211 mL
                                                                    848 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/46/95.[**Numeric Identifier **]/31/5
   Ve: 7.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   148 K/uL
   100 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.2 mEq/L
   17 mg/dL
   105 mEq/L
   140 mEq/L
   24.8 %
   10.5 K/uL
        [image002.jpg]
                             [**2117-12-7**]  08:15 PM
                             [**2117-12-8**]  02:42 AM
                             [**2117-12-8**]  03:35 AM
   WBC
   13.1
   10.5
   Hct
   26.8
   24.8
   Plt
   146
   148
   Cr
   0.6
   0.6
   TropT
   0.01
   TCO2
   32
   Glucose
   113
   100
   Other labs: PT / PTT / INR:13.2/34.3/1.1, CK / CKMB /
   Troponin-T:12/3/0.01, ALT / AST:[**4-1**], Alk Phos / T Bili:66/0.2,
   Differential-Neuts:84.1 %, Lymph:7.7 %, Mono:8.0 %, Eos:0.0 %,
   Albumin:2.4 g/dL, LDH:69 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   76 yo woman with smoking history, COPD by imaging, transferred from OSH
   for managment of vocal cord mass and RLL mass.  Now intubated with 7.0
   ETT, no cuff leak.
   -IP, thoracics, and ENT coordinating for securing of airwaqy with
   likely trach and excision of vocal cord mass
   -Will also require sampling of mediastinal lymph nodes
   -Neck CT with contrast
   -Continue current vent settings
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-12-7**] 07:31 PM
   18 Gauge - [**2117-12-7**] 07:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill
   ------ Protected Section ------
   Met with family (husband, son, daughter) to update them both before and
   after OR visit.  There was significant subglottic swelling, so steroids
   initiated and further intervention deferred for 48 hrs.  Attempt made
   in OR to switch tube to 8.5 over a tube exchanger
 tube able to be
   inserted but fit very tight so switch back to a 7.0
   Pt is critically ill.  Time spent 20 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2117-12-8**] 17:22 ------

2117-12-09 07:57:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath.
   76F with no PMH, longtime smoker, COPD, presenting with shortness of
   breath, chest pain, and nausea, now transferred to [**Hospital1 1**] MICU for
   further management of right lung and vocal cord masses.
   24 Hour Events:
 ULTRASOUND - At [**2117-12-8**] 10:15 AM
   lenis
 ULTRASOUND - At [**2117-12-8**] 12:30 PM
   ehco
 OR SENT - At [**2117-12-8**] 01:00 PM
 OR RECEIVED - At [**2117-12-8**] 02:45 PM
 ARTERIAL LINE - START [**2117-12-8**] 10:14 PM
   Bottom line - despite a good effort to get things done, no real
   progress was made yesterday:
   - OSH pathology has not taken a look at the slides; will anticipate
   doing so tomorrow [**12-9**] and will fax us with their findings.
   - Echo showed EF > 55%, pulmonary artery systolic pressure could not be
   determined, otherwise overall unremarkable.
   - LENI showed no evidence of left lower extremity DVT.
   - IP did not remove OSH RIJ, put in a new IJ or arterial line.
   - PICC line requested to be placed.
   - Arterial line placed.
   - Need to discuss about RIJ today.
   - ENT recommends steroids, return to OR in 2 days with Dr.
   [**Last Name (STitle) 10510**] to perform repeat direct laryngoscopy and possible
   biopsy, CT neck with contrast (ordered).
   - IP notes the following plan: The patient will be given a course of
   Decadron for 48 hours and then we will return back to the operating
   room with ENT and Thoracic Surgery for evaluation of the vocal cords
   and possible change of the ET tube to a larger size followed by
   endobronchial ultrasound with transbronchial needle aspiration. If the
   vocal cords continue to reveal significant edema despite Decadron
   treatment, then we might consider tracheostomy tube plus
   mediastinoscopy for further work-up of the patient's lesions.
   - Desaturated after returning to floor from OR; stat CXR showed
   continued opacification at the right base consistent with atelectasis
   and effusion. Abundant mucous suctioned with improved saturation.
   - Discontinued heparin SC due to IP concern about bloody secretion;
   will need to follow up with IP regarding when can restart
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-12-9**] 01:00 AM
   Clindamycin - [**2117-12-9**] 06:00 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-9**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 55 (55 - 89) bpm
   BP: 121/48(71) {119/47(-16) - 139/63(93)} mmHg
   RR: 17 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
    CVP: 0 (0 - 10)mmHg
   Total In:
                                                                  2,266 mL
                                                                    254 mL
   PO:
   TF:
   IVF:
                                                                  1,826 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                    300 mL
   Urine:
                                                                    495 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,771 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/49/191/29/4
   Ve: 8.5 L/min
   PaO2 / FiO2: 382
   Physical Examination
   General: Intubated, sedated
   HEENT: Sclera anicteric, PERRL small at 2->1, MMM, oropharynx and
   nasopharynx clear without evidence of dried blood.
   Neck: supple, JVP not elevated, no LAD.  RIJ in place and appears
   benign.
   Lungs: Clear to auscultation bilaterally with some decreased air entry
   at R base
   CV: Regular rate and rhythm, normal S1 + S2, soft SM at LUSB without
   radiation.
   Abdomen:  soft, appears non-tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Neuro: sedated, arouses to loud voice, moving all extremities to
   command.
   Labs / Radiology
   149 K/uL
   8.2 g/dL
   153 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.4 mEq/L
   19 mg/dL
   102 mEq/L
   139 mEq/L
   27.1 %
   9.8 K/uL
        [image002.jpg]
                             [**2117-12-7**]  08:15 PM
                             [**2117-12-8**]  02:42 AM
                             [**2117-12-8**]  03:35 AM
                             [**2117-12-8**]  10:23 PM
                             [**2117-12-9**]  03:29 AM
                             [**2117-12-9**]  03:49 AM
   WBC
   13.1
   10.5
   9.8
   Hct
   26.8
   24.8
   27
   27.1
   Plt
   146
   148
   149
   Cr
   0.6
   0.6
   0.6
   TropT
   0.01
   TCO2
   32
   31
   31
   Glucose
   113
   100
   153
   Other labs: PT / PTT / INR:13.3/30.4/1.1, CK / CKMB /
   Troponin-T:12/3/0.01, ALT / AST:[**4-1**], Alk Phos / T Bili:66/0.2,
   Differential-Neuts:84.1 %, Lymph:7.7 %, Mono:8.0 %, Eos:0.0 %,
   Albumin:2.4 g/dL, LDH:69 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CT Neck - preliminary read: Subglottic lesion not well seen,
   may be due to ETT.
   CXR today:
   Echo [**2117-12-8**]:
   The left atrium is normal in size. Left ventricular wall thicknesses
   are normal. The left ventricular cavity size is normal. Overall left
   ventricular systolic function is normal (LVEF>55%). There is a mild
   resting left ventricular outflow tract obstruction. Right ventricular
   chamber size and free wall motion are normal. The ascending aorta is
   mildly dilated. The aortic valve leaflets (3) are mildly thickened.
   There is no aortic valve stenosis. No aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. Physiologic mitral
   regurgitation is seen (within normal limits). The pulmonary artery
   systolic pressure could not be determined. There is a
   trivial/physiologic pericardial effusion.
   Microbiology: [**2117-12-7**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2117-12-7**]  URINE URINE CULTURE-FINAL INPATIENT - No growth
   [**2117-12-7**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY:    GRAM STAIN (Final [**2117-12-7**]):
         [**9-12**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
      RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
   [**2117-12-7**]  MRSA SCREEN MRSA SCREEN-PENDING
   [**2117-12-7**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   ECG: None.
   Assessment and Plan
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   76F with no PMH, longtime smoker, presenting with shortness of breath,
   chest pain, and nausea, now transferred to [**Hospital1 1**] MICU for further
   management of right lung and vocal cord masses.
   # Vocal cord mass
   Not clearly visualized on preliminary read of neck CT. Seen by ENT on
   endoscopy but no biopsy taken. They suggest steroids for 2 d then
   biopsy. Differential includes cancer (squamous cell cancer or
   metastatic), benign polyp, abscess, hematoma. Polyposis also correlates
   with squamous lung cancer. Mass was biopsied at OSH but slides not yet
   reviewed by their pathologist - they will fax today.  Main question
   relates to management of large airway obstruction. For now airway
   secure after placement of ETT. Next approach to take - attempt at
   ENT/surgical resection vs. proceeding with tracheostomy with subsequent
   addressing of mass. Able to pass 7.0 tube, but no leak when cuff down.
   Will follow after steroids given. Symptomatic with dyspnea and gagging
   for at least a month per family.
   - ENT and IP following.
   - Back to OR on Friday after steroids.
   - Restart diet and then NPO after midnight Thursday
   - Maintain ETT in place
   - Followup path from OSH; attempt to obtain tissue samples for [**Hospital1 **] path
   review (they are supposed to fax today)
   # R lung mass
   Review of OSH CT here suggesting entire RLL collapsed, but complicated
   with ?fluid and gas vs. minimal airway patency.  Differential includes
   malignancy (primary or metastatic), abscess/necrotizing pneumonia (from
   aspiration or post obstructive), sequestration. From endoscopy (IP's)
   sounds like mass. Seems to be having some bleeding from endotracheal
   suctioning, likely from biopsy today (ENT suggested holding heparin for
   now).
   - Hold heparin, but discuss given likely hypercoagulable state.
   - Rebronch with ENT on Friday for biopsy after steroids
   - Consider thoracics consult if/when appropriate (D/w IP)
   - Followup and obtain path as above.
   - Discuss ABx (Treat empirically for necrotizing pneumonia - clinda and
   ceftriaxone to start; consider better MRSA and/or atypical coverage if
   not improving; tailor abx based on culture data).
   # Respiratory failure
   Intubated in setting of visualization of cord mass as above, but also
   has significant primary lung pathology (baseline emphysematous changes,
   RLL collapse/mass).
   - Maintain intubated on vent until trach or definitive management of
   vocal cord mass.  Hope for early liberation from vent if trach pursued.
   - Goal pCO2 around 50-60
   # R pleural effusion.  Malignant vs. parapneumonic vs. simple
   transudative.  Too small on imaging to sample currently. Not sampled on
   endoscopy. Likely malignant given appearance of mass on endoscopy.
   # Mediastinal lymphadenopathy.  Causing L hilar fullness on CXR,
   splicing of carina as well.  More concerning for malignancy as cause,
   but could also be reactive if infection present.
   - Management of mass as above.
   # Anemia. Chronic inflammation/disease picture. - Guiaic stools.
   - Check.
   - Follow
   - Transfusion goal 21 or if symptomatic at this time.
   - T&S and will cross 2 units as going to OR Friday.
   -------------------------
   # Leukocytosis.  Infectious vs. reactive to other process.  Infectious
   etiologies include post obstructive/aspiration pneumonia, urine, blood,
   GI source.
   - send sputum.
   - blood cultures.
   - UA.
   - Antibiotics as above.
   # FEN: No IVF, replete electrolytes, NPO in case of procedure tomorrow.
   # Prophylaxis: Subcutaneous heparin, H2B.
   # Access: RIJ placed at OSH (remove by tomorrow) - resite vs.
   peripherals only.
   # Communication: Husband, children.
   # [**Name2 (NI) 129**]:  Full (discussed with husband)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-12-7**] 07:31 PM
   18 Gauge - [**2117-12-7**] 07:31 PM
   Arterial Line - [**2117-12-8**] 10:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-12-09 10:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Vocal cord mass, RLL mass
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   OR events noted - sunglottic swelling seen, steroids initiated
   24 Hour Events:
 ULTRASOUND - At [**2117-12-8**] 10:15 AM
   lenis
 ULTRASOUND - At [**2117-12-8**] 12:30 PM
   ehco
 OR SENT - At [**2117-12-8**] 01:00 PM
 OR RECEIVED - At [**2117-12-8**] 02:45 PM
 ARTERIAL LINE - START [**2117-12-8**] 10:14 PM
   History obtained from Medical records, icu team
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-12-9**] 01:00 AM
   Clindamycin - [**2117-12-9**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-12-9**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 70 (55 - 77) bpm
   BP: 129/52(78) {119/47(-16) - 139/63(93)} mmHg
   RR: 24 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 9 (0 - 13)mmHg
   Total In:
                                                                  2,266 mL
                                                                    378 mL
   PO:
   TF:
   IVF:
                                                                  1,826 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                    390 mL
   Urine:
                                                                    495 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,771 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 381 (381 - 381) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/49/191/29/4
   Ve: 8.5 L/min
   PaO2 / FiO2: 478
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   149 K/uL
   153 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.4 mEq/L
   19 mg/dL
   102 mEq/L
   139 mEq/L
   27.1 %
   9.8 K/uL
        [image002.jpg]
                             [**2117-12-7**]  08:15 PM
                             [**2117-12-8**]  02:42 AM
                             [**2117-12-8**]  03:35 AM
                             [**2117-12-8**]  10:23 PM
                             [**2117-12-9**]  03:29 AM
                             [**2117-12-9**]  03:49 AM
   WBC
   13.1
   10.5
   9.8
   Hct
   26.8
   24.8
   27
   27.1
   Plt
   146
   148
   149
   Cr
   0.6
   0.6
   0.6
   TropT
   0.01
   TCO2
   32
   31
   31
   Glucose
   113
   100
   153
   Other labs: PT / PTT / INR:13.3/30.4/1.1, CK / CKMB /
   Troponin-T:12/3/0.01, ALT / AST:[**4-1**], Alk Phos / T Bili:66/0.2,
   Differential-Neuts:84.1 %, Lymph:7.7 %, Mono:8.0 %, Eos:0.0 %,
   Albumin:2.4 g/dL, LDH:69 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Imaging: CT neck: subglottic lesion not well seen (prelim)
   Assessment and Plan
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   76 yo woman with smoking history, COPD by imaging, transferred from OSH
   for managment of vocal cord mass and RLL mass.  Now intubated with 7.0
   ETT, no cuff leak.
   -decadron for 2 48 hrs total and back to OR tomorrow with
   IP/thoracics/ENT
   -Vent settins switched to PSV.  CXR shows reexpansion today
   -F/U OSH path results
   -PICC now in place - D/C OSH CVL once positioning confirmed
   -Cont CTX and clinda
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-12-7**] 07:31 PM
   18 Gauge - [**2117-12-7**] 07:31 PM
   Arterial Line - [**2117-12-8**] 10:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2117-12-10 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Laryngeal, RML Masses
   24 Hour Events:
   - To OR (Tracheostomy, Steroids)  in a.m. [**12-10**]
   - Given 500 cc bolus with low urine output in afternoon
   - Given 1L LR at 100 in evening.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-12-9**] 11:00 PM
   Clindamycin - [**2117-12-10**] 03:35 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-10**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 43 (43 - 85) bpm
   BP: 128/51(77) {117/46(68) - 146/62(91)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
    CVP: 10 (9 - 10)mmHg
   Total In:
                                                                  1,689 mL
                                                                    970 mL
   PO:
   TF:
   IVF:
                                                                  1,509 mL
                                                                    970 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                    160 mL
   Urine:
                                                                    855 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    834 mL
                                                                    810 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 377 (331 - 411) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.42/52/113/29/8
   Ve: 8.7 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General: Intubated, sedated, but arousable.
   HEENT: Sclera anicteric, PERRL small at 2->1, MMM, oropharynx and
   nasopharynx clear without evidence of dried blood.
   Neck: supple, JVP not elevated, no LAD.  RIJ in place and appears
   benign.
   Lungs: Clear to auscultation bilaterally with some decreased air entry
   at R base
   CV: Regular rate and rhythm, normal S1 + S2, soft SM at LUSB without
   radiation.
   Abdomen:  soft, appears non-tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Neuro: sedated, arouses to loud voice, moving all extremities to
   command. Appropriate responses to binary questions.
   Labs / Radiology
   138 K/uL
   7.8 g/dL
   150 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.6 mEq/L
   29 mg/dL
   98 mEq/L
   136 mEq/L
   25.2 %
   7.4 K/uL
        [image002.jpg]
                             [**2117-12-7**]  08:15 PM
                             [**2117-12-8**]  02:42 AM
                             [**2117-12-8**]  03:35 AM
                             [**2117-12-8**]  10:23 PM
                             [**2117-12-9**]  03:29 AM
                             [**2117-12-9**]  03:49 AM
                             [**2117-12-9**]  10:44 AM
                             [**2117-12-10**]  03:04 AM
                             [**2117-12-10**]  03:19 AM
   WBC
   13.1
   10.5
   9.8
   7.4
   Hct
   26.8
   24.8
   27
   27.1
   25.2
   Plt
   146
   148
   149
   138
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   0.01
   TCO2
   32
   31
   31
   30
   35
   Glucose
   113
   100
   153
   149
   150
   Other labs: PT / PTT / INR:12.7/26.9/1.1, CK / CKMB /
   Troponin-T:12/3/0.01, ALT / AST:[**4-1**], Alk Phos / T Bili:66/0.2,
   Differential-Neuts:84.1 %, Lymph:7.7 %, Mono:8.0 %, Eos:0.0 %,
   Albumin:2.4 g/dL, LDH:69 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.4
   mg/dL
   Imaging: CXR: Pending
   Microbiology: Sputum: [**2117-12-7**] 8:16 pm SPUTUM      Source:
   Endotracheal.
                               **FINAL REPORT [**2117-12-9**]**
      GRAM STAIN (Final [**2117-12-7**]):
         [**9-12**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
      RESPIRATORY CULTURE (Final [**2117-12-9**]):
         RARE GROWTH Commensal Respiratory Flora.
         BETA STREPTOCOCCI, NOT GROUP A.    SPARSE GROWTH.
   Assessment and Plan
   76F with no PMH, longtime smoker, presenting with shortness of breath,
   chest pain, and nausea, now transferred to [**Hospital1 1**] MICU for further
   management of right lung and vocal cord masses.
   # Sedation, Ventilation and Airway
   Increased sedation for PICC to propofol 15, then back to 10. Needed to
   maintain due to lots of coughing and desynchrony. Now comfortable and
   lightly sedated
 arousable and able to answer questions. Ventilator
   aim to provide some PEEP around 10 cmH2O given small lumen ETT and
   intrinsic resistance. Maintain for now given possibility of upper
   airway obstruction. To OR on Friday and receiving steroids to possibly
   increase airway lumen. Likely also some LRT infection in context of
   airway collapse (see below)
   - Maintain light sedation at propofol 10
   - Ventilate with pressure support with PEEP 10 cmH2O for now
   - Goal CO2 around 50 - 60 mmHg ppCO2
   # Vocal cord mass
   Not clearly visualized on preliminary read of neck CT. Seen by ENT on
   endoscopy but no biopsy taken. They suggest steroids for 2 d then
   biopsy. Differential includes cancer (squamous cell cancer or
   metastatic), benign polyp, abscess, hematoma. Polyposis also correlates
   with squamous lung cancer. Mass was biopsied at OSH but slides not yet
   reviewed by their pathologist - they will fax today.  Main question
   relates to management of large airway obstruction. For now airway
   secure after placement of ETT. Next approach to take - attempt at
   ENT/surgical resection vs. proceeding with tracheostomy with subsequent
   addressing of mass. Able to pass 7.0 tube, but no leak when cuff down.
   Will follow after steroids given. Symptomatic with dyspnea and gagging
   for at least a month per family.
   - ENT and IP following.
   - Back to OR on Friday after steroids.
   - Restart diet and then NPO after midnight tonight
   - Maintain ETT in place
   - Followup path from OSH; attempt to obtain tissue samples for [**Hospital1 **] path
   review (they are supposed to fax today)
   # Right Lung Mass, possible LRTI and Effusion
   Review of OSH CT here suggesting entire RLL collapsed, but complicated
   with ?fluid and gas vs. minimal airway patency.  Differential includes
   malignancy (primary or metastatic), abscess/necrotizing pneumonia (from
   aspiration or post obstructive), sequestration. From endoscopy (IP's)
   sounds like mass. Seems to be having some bleeding from endotracheal
   suctioning, likely from biopsy today (ENT suggested holding heparin for
   now). Effusion is malignant versus infectious in context of collapse.
   - Hold heparin, but discuss given likely hypercoagulable state.
   - Rebronch with ENT on Friday for biopsy after steroids
   - Followup and obtain path as above.
   - Treat empirically for necrotizing pneumonia for now given
   multi-density appearance on CT- clinda and ceftriaxone. Continue until
   more information from specimens on Friday or resulting culture data.
   # Mediastinal Lymphadenopathy
   Secondary to above processes
 mass with nodal spread, versus secondary
   to infection.
   # Anemia. Chronic inflammation/disease picture
   # Leukocytosis
   Now within normal range in context of antibiotics. Will likely increase
   again now given steroids.
   - Follow culture results and culture further if indicated.
   # FEN: No IVF, replete electrolytes, NPO in case of procedure tomorrow.
   # Prophylaxis: Subcutaneous heparin, H2B.
   # Access:
   Multi Lumen - [**2117-12-7**] 07:31 PM
   18 Gauge - [**2117-12-7**] 07:31 PM
   Arterial Line - [**2117-12-8**] 10:14 PM
   # Communication: Husband, children.
   # [**Name2 (NI) 129**]:  Full (discussed with husband)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: NPO for procedure
   Lines:
   18 Gauge - [**2117-12-7**] 07:31 PM
   Arterial Line - [**2117-12-8**] 10:14 PM
   PICC Line - [**2117-12-9**] 09:30 AM
   Prophylaxis:
   DVT: Subcutaneous Heparin
   Stress ulcer: H2B
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2117-12-10 11:03:00 Physician Attending Progress Note
Chief Complaint: Vocal cord mass, RLL [**Hospital3 **] Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2117-12-9**] 09:30 AM
 MULTI LUMEN - STOP [**2117-12-9**] 11:30 AM
   placed at outside hospital
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-12-9**] 11:00 PM
   Clindamycin - [**2117-12-10**] 03:35 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2117-12-10**] 09:15 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-12-10**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 56 (42 - 86) bpm
   BP: 137/54(81) {118/46(69) - 146/62(91)} mmHg
   RR: 18 (18 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,689 mL
                                                                  1,032 mL
   PO:
             TF:
   IVF:
                                                                  1,509 mL
                                                                  1,032 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                    250 mL
   Urine:
                                                                    855 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    834 mL
                                                                    782 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (320 - 411) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.42/52/113/29/8
   Ve: 9.7 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   138 K/uL
   150 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.6 mEq/L
   29 mg/dL
   98 mEq/L
   136 mEq/L
   25.2 %
   7.4 K/uL
        [image002.jpg]
                             [**2117-12-7**]  08:15 PM
                             [**2117-12-8**]  02:42 AM
                             [**2117-12-8**]  03:35 AM
                             [**2117-12-8**]  10:23 PM
                             [**2117-12-9**]  03:29 AM
                             [**2117-12-9**]  03:49 AM
                             [**2117-12-9**]  10:44 AM
                             [**2117-12-10**]  03:04 AM
                             [**2117-12-10**]  03:19 AM
   WBC
   13.1
   10.5
   9.8
   7.4
   Hct
   26.8
   24.8
   27
   27.1
   25.2
   Plt
   146
   148
   149
   138
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   0.01
   TCO2
   32
   31
   31
   30
   35
   Glucose
   113
   100
   153
   149
   150
   Other labs: PT / PTT / INR:12.7/26.9/1.1, CK / CKMB /
   Troponin-T:12/3/0.01, ALT / AST:[**4-1**], Alk Phos / T Bili:66/0.2,
   Differential-Neuts:84.1 %, Lymph:7.7 %, Mono:8.0 %, Eos:0.0 %,
   Albumin:2.4 g/dL, LDH:69 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   76 yo woman with smoking history, COPD by imaging, transferred from OSH
   for managment of vocal cord mass and RLL mass.  Now intubated with 7.0
   ETT, no cuff leak.
   -Received 2 days of Decadron
 back from OR after relook by IP and
   ENT.  No trach placed, less swelling of subglottic region, 8.0 tube
   easily placed.  Vocal cord lesion still not readily visualized.
   EBUS-guided bx of 11L and 7 LNs.  Rec by IP that ok to extubate
 will
   wait until pt more awake and arrange for anesthesia back-up
   -OSH path results: atypical squamous cells in cytology from RLL, vocal
   cord biopsy with squamous mucosa
   -Cont CTX and clinda
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-12-7**] 07:31 PM
   Arterial Line - [**2117-12-8**] 10:14 PM
   PICC Line - [**2117-12-9**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill
   ------ Protected Section ------
   Met with family today and discussed findings of OSH path.  Pt is
   critically ill
 time spent 15 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2117-12-10**] 20:33 ------

2117-12-11 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - OR today: Biopsies in the OR of Subcarinal LN And Lymph Nodes from
   the left mediastinal.
   - ENT Recs/IP Recs: Extubation in AM. After extubation will get better
   visualization of laryngeal mass.
   - Urine Output low sp OR. Bolused one liter wihtout improvement. Foley
   flushed. Bladder scan without urine in bladder.
   - Complained of some chest/periumbilical pain with coughing during the
   afternoon. Started Fentanyl IV. EKG: Without ST-T wave changes.
   - Preliminary path at OSH: Lung concerning for squamous cell carcinoma,
   laryngeal mass less concerning for malignancy.
   - Bloody secretions suctioned from NG tube early this AM.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2117-12-10**] 08:40 PM
   Ceftriaxone - [**2117-12-10**] 11:55 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2117-12-10**] 09:15 AM
   Morphine Sulfate - [**2117-12-10**] 05:30 PM
   Famotidine (Pepcid) - [**2117-12-10**] 08:40 PM
   Heparin Sodium (Prophylaxis) - [**2117-12-10**] 11:55 PM
   Fentanyl - [**2117-12-11**] 04:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-11**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 39 (39 - 86) bpm
   BP: 154/64(93) {133/51(80) - 177/86(124)} mmHg
   RR: 18 (10 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  6,272 mL
                                                                    142 mL
   PO:
             TF:
   IVF:
                                                                  6,272 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                    545 mL
                                                                    260 mL
   Urine:
                                                                    545 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,727 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 380 (247 - 582) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.40/50/109/29/5
   Ve: 6.5 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General: Intubated, sedated, but arousable.
   HEENT: Sclera anicteric, PERRL small at 2->1
   Neck: supple, JVP not elevated, no LAD.  RIJ in place and appears
   benign.
   Lungs: Right lung field with rhonchi, Left lung field clear to
   auscultation
   CV: Regular rate and rhythm, normal S1 + S2, soft SM at LUSB without
   radiation.
   Abdomen:  soft, appears non-tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Neuro: sedated, arouses to loud voice, moving all extremities to
   command.
   Labs / Radiology
   150 K/uL
   8.3 g/dL
   135 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.7 mEq/L
   33 mg/dL
   106 mEq/L
   140 mEq/L
   26.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2117-12-9**]  03:29 AM
                             [**2117-12-9**]  03:49 AM
                             [**2117-12-9**]  10:44 AM
                             [**2117-12-10**]  03:04 AM
                             [**2117-12-10**]  03:19 AM
                             [**2117-12-10**]  02:04 PM
                             [**2117-12-10**]  03:07 PM
                             [**2117-12-10**]  05:10 PM
                             [**2117-12-11**]  03:05 AM
                             [**2117-12-11**]  03:19 AM
   WBC
   9.8
   7.4
   6.3
   Hct
   27.1
   25.2
   26.9
   Plt
   149
   138
   150
   Cr
   0.6
   0.6
   0.5
   0.6
   TCO2
   31
   30
   35
   32
   29
   32
   Glucose
   153
   149
   150
   142
   135
   Other labs: PT / PTT / INR:13.9/27.1/1.2, CK / CKMB /
   Troponin-T:12/3/0.01, ALT / AST:[**4-1**], Alk Phos / T Bili:66/0.2,
   Differential-Neuts:84.1 %, Lymph:7.7 %, Mono:8.0 %, Eos:0.0 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:69 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR: Pending
   Microbiology: [**2117-12-7**] 8:16 pm SPUTUM      Source: Endotracheal.
                               **FINAL REPORT [**2117-12-9**]**
      GRAM STAIN (Final [**2117-12-7**]):
         [**9-12**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
      RESPIRATORY CULTURE (Final [**2117-12-9**]):
         RARE GROWTH Commensal Respiratory Flora.
         BETA STREPTOCOCCI, NOT GROUP A.    SPARSE GROWTH.
   Urine Culture: NGTD
   Blood Culture: Pending
   Assessment and Plan
   76F with no PMH, longtime smoker, presenting with shortness of breath,
   chest pain, and nausea, now transferred to [**Hospital1 1**] MICU for further
   management of right lung and vocal cord masses.
   # Ventilation and Airway
   Plan for extubation today with Anesthesia present. Bloody secretions
   are concerning, however appear mild.
   - Ventilate with pressure support with PEEP 10 cmH2O for now
   - Goal CO2 around 50 - 60 mmHg ppCO2
   - Extubate today.
   - Continue Dexamethasone, defer length of therapy to ENT/IP
   .
   # Vocal cord mass
   Most concerning for squamous cell carcinoma however may be a benign
   polyp. Preliminary path from OSH pointing toward polyp. ENT plans for
   further evaluation sp extubation.
   - FU ENT/IP recs
   - Restart Diet if possible sp Extubation
   - FU path from [**Hospital1 1**]
   - Followup path from OSH; attempt to obtain tissue samples for [**Hospital1 **] path
   review (they are supposed to fax today)
   - Social Work Consult re: Family coping for potential new diagnosis.
   # Right Lung Mass, possible LRTI and Effusion
   Concerning for Squamous Cell Carcinoma. Preliminary path points toward
   squamous cell carcinoma.
   - Hold heparin, but discuss given likely hypercoagulable state.
   - FU OR today
   - Followup and obtain path as above.
   - Treat empirically for necrotizing pneumonia for now given
   multi-density appearance on CT- clinda and ceftriaxone. Continue until
   more information from specimens on Friday or resulting culture data.
   # Mediastinal Lymphadenopathy
   Secondary to above processes
 mass with nodal spread, versus secondary
   to infection.
   # Anemia. Chronic inflammation/disease picture
   # FEN: No IVF, replete electrolytes, NPO in case of procedure tomorrow.
   # Prophylaxis: Subcutaneous heparin, H2B.
   # Access:
   Multi Lumen - [**2117-12-7**] 07:31 PM
   18 Gauge - [**2117-12-7**] 07:31 PM
   Arterial Line - [**2117-12-8**] 10:14 PM
   # Communication: Husband, children.
   # [**Name2 (NI) 129**]:  Full (discussed with husband)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:  NPO for extubation
   Lines:
   18 Gauge - [**2117-12-7**] 07:31 PM
   Arterial Line - [**2117-12-8**] 10:14 PM
   PICC Line - [**2117-12-9**] 09:30 AM
   Prophylaxis:
   DVT: Subcutaneous Heparin
   Stress ulcer: H2B
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2117-12-11 10:53:00 Physician Attending Progress Note
Chief Complaint: 76 yr woman with hx tobacco abuse. Found to have vocal
   cord mass and bronchus intermedius mass for management at [**Hospital1 **]
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   IP and ENT in OR yesterday and sampled mediastinal nodes.
   Remains intubated for airway protection but airway looked improved at
   bronch and thought to be reasonable to extubate in AM with anaesthesia
   present
   24 Hour Events:
 OR SENT - At [**2117-12-10**] 09:55 AM
 OR RECEIVED - At [**2117-12-10**] 11:45 AM
 EKG - At [**2117-12-10**] 06:00 PM
   Lung Mass- Squamous cell CA
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2117-12-10**] 08:40 PM
   Ceftriaxone - [**2117-12-10**] 11:55 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-12-10**] 05:30 PM
   Famotidine (Pepcid) - [**2117-12-11**] 07:36 AM
   Heparin Sodium (Prophylaxis) - [**2117-12-11**] 07:36 AM
   Fentanyl - [**2117-12-11**] 10:16 AM
   Other medications:
   colace, dexamethasone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-11**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 47 (38 - 77) bpm
   BP: 151/69(98) {140/55(84) - 177/86(124)} mmHg
   RR: 23 (10 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  6,272 mL
                                                                  1,260 mL
   PO:
             TF:
   IVF:
                                                                  6,272 mL
                                                                  1,260 mL
   Blood products:
   Total out:
                                                                    545 mL
                                                                    412 mL
   Urine:
                                                                    545 mL
                                                                    412 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,727 mL
                                                                    848 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 379 (247 - 582) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.40/50/109/29/5
   Ve: 6.7 L/min
   PaO2 / FiO2: 273
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   150 K/uL
   135 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.7 mEq/L
   33 mg/dL
   106 mEq/L
   140 mEq/L
   26.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2117-12-9**]  03:29 AM
                             [**2117-12-9**]  03:49 AM
                             [**2117-12-9**]  10:44 AM
                             [**2117-12-10**]  03:04 AM
                             [**2117-12-10**]  03:19 AM
                             [**2117-12-10**]  02:04 PM
                             [**2117-12-10**]  03:07 PM
                             [**2117-12-10**]  05:10 PM
                             [**2117-12-11**]  03:05 AM
                             [**2117-12-11**]  03:19 AM
   WBC
   9.8
   7.4
   6.3
   Hct
   27.1
   25.2
   26.9
   Plt
   149
   138
   150
   Cr
   0.6
   0.6
   0.5
   0.6
   TCO2
   31
   30
   35
   32
   29
   32
   Glucose
   153
   149
   150
   142
   135
   Other labs: PT / PTT / INR:13.9/27.1/1.2, CK / CKMB /
   Troponin-T:12/3/0.01, ALT / AST:[**4-1**], Alk Phos / T Bili:66/0.2,
   Differential-Neuts:84.1 %, Lymph:7.7 %, Mono:8.0 %, Eos:0.0 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:69 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR
   Microbiology: Sputum - sparse growth Beta Strept
   Urine - NG
   BCs pending
   Assessment and Plan
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   76F with no PMH, longtime smoker, presenting with shortness of breath,
   chest pain, and nausea, now transferred to [**Hospital1 1**] MICU for further
   management of right lung and vocal cord masses.
   # Ventilation and Airway
   Plan for extubation today on hold with no leak with cuff down and pt
   unable to vocalize. Bloody secretions are concerning, however appear
   mild.
   - Ventilate with pressure support with PEEP 10 cmH2O for now
   - Goal CO2 around 50 - 60 mmHg ppCO2
   - Speak with IP about extubation under controlled circumstances in OR.
   - Continue Dexamethasone, defer length of therapy to ENT/IP
   .
   # Vocal cord mass
   Most concerning for squamous cell carcinoma however may be a benign
   polyp. Preliminary path from OSH pointing toward polyp. ENT plans for
   further evaluation sp extubation.
   - FU ENT/IP recs
   - Restart Diet if possible sp Extubation
   - FU path from [**Hospital1 1**]
   - Followup path from OSH; attempt to obtain tissue samples for [**Hospital1 **] path
   review (they are supposed to fax today)
   - Social Work Consult re: Family coping for potential new diagnosis.
   # Right Lung Mass, possible LRTI and Effusion
   Concerning for Squamous Cell Carcinoma. Preliminary path points toward
   squamous cell carcinoma.
   - Hold heparin, but discuss given likely hypercoagulable state.
   - FU OR today
   - Followup and obtain path as above.
   - Treat empirically for necrotizing pneumonia for now given
   multi-density appearance on CT- clinda and ceftriaxone. Continue until
   more information from specimens on Friday or resulting culture data.
   # Mediastinal Lymphadenopathy
   Secondary to above processes
 mass with nodal spread, versus secondary
   to infection. Awaiting path
   # Anemia. Chronic inflammation/disease picture
   # FEN: No IVF, replete electrolytes, NPO in case of procedure tomorrow.
   # Prophylaxis: Subcutaneous heparin, H2B.
   # Access:
   Multi Lumen - [**2117-12-7**] 07:31 PM
   18 Gauge - [**2117-12-7**] 07:31 PM
   Arterial Line - [**2117-12-8**] 10:14 PM
   # Communication: Husband, children.
   # [**Name2 (NI) 129**]:  Full (discussed with husband)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-12-7**] 07:31 PM
   Arterial Line - [**2117-12-8**] 10:14 PM
   PICC Line - [**2117-12-9**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2117-12-12 08:37:00 Physician Resident Progress Note
Chief Complaint: Presented from OSH with supralaryngeal mass impinging
   on airway and right lung mass.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2117-12-11**] 03:06 PM
   - IP recommended trial of extubation with anesthesia by bedside.
   - Patient extubated successfully during the afternoon.
   - ENT recommendations not in when checked at 1800.
   - Pathology/cytology at [**Hospital1 1**] not in when checked at 2100.
   - Hct stable 26.9 (am) -> 28.9 (pm)
   - Patient with some anxiety sleeping at night; gave her home dose
   Ambien.
   - On morning ([**12-12**]), very bradycardic to 20s [sic - cannot see on
   Metavision] with agonal breathing that remitted spontaneously upon
   waking.
   On [**12-10**]:
   1. Flexible bronchoscopy through an endotracheal tube.
   2. Endobronchial ultrasound with transbronchial needle
       aspiration of lymph node stations 11L and 7.
   From pathology OSH:
   Pathology of lung lesion - squamous.
   Supralaryngeal lesion - thought to be benign.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2117-12-11**] 08:00 PM
   Ceftriaxone - [**2117-12-12**] 12:01 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2117-12-11**] 02:50 PM
   Famotidine (Pepcid) - [**2117-12-12**] 07:46 AM
   Heparin Sodium (Prophylaxis) - [**2117-12-12**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-12**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.2
   HR: 45 (31 - 68) bpm
   BP: 143/59(88) {123/49(75) - 176/87(123)} mmHg
   RR: 19 (15 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  1,630 mL
                                                                    270 mL
   PO:
             TF:
   IVF:
                                                                  1,630 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    460 mL
   Urine:
                                                                    920 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 358 (358 - 358) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.39/52/91.[**Numeric Identifier **]/31/4
   Ve: 8 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General: Alert and oriented. Extubated with nasal cannula.
   HEENT: Sclera anicteric, PERRL small at 2->1
   Neck: supple, JVP not elevated, no LAD.  RIJ in place and appears
   benign.
   Lungs: Right lung field with reduced breath sounds and trace rhonchi,
   Left lung field clear to auscultation
   CV: Regular rate and rhythm, normal S1 + S2, soft SM at LUSB without
   radiation.
   Abdomen:  soft, appears non-tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Neuro: sedated, arouses to loud voice, moving all extremities to
   command.
   Labs / Radiology
   141 K/uL
   8.3 g/dL
   125 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.4 mEq/L
   33 mg/dL
   105 mEq/L
   140 mEq/L
   27.7 %
   7.1 K/uL
        [image002.jpg]
                             [**2117-12-10**]  03:04 AM
                             [**2117-12-10**]  03:19 AM
                             [**2117-12-10**]  02:04 PM
                             [**2117-12-10**]  03:07 PM
                             [**2117-12-10**]  05:10 PM
                             [**2117-12-11**]  03:05 AM
                             [**2117-12-11**]  03:19 AM
                             [**2117-12-11**]  03:23 PM
                             [**2117-12-12**]  03:23 AM
                             [**2117-12-12**]  03:40 AM
   WBC
   7.4
   6.3
   7.1
   Hct
   25.2
   26.9
   28.9
   27.7
   Plt
   138
   150
   141
   Cr
   0.6
   0.5
   0.6
   0.5
   TCO2
   35
   32
   29
   32
   33
   Glucose
   149
   150
   142
   135
   125
   Other labs: PT / PTT / INR:15.7/27.9/1.4, CK / CKMB /
   Troponin-T:12/3/0.01, ALT / AST:[**4-1**], Alk Phos / T Bili:66/0.2,
   Differential-Neuts:84.1 %, Lymph:7.7 %, Mono:8.0 %, Eos:0.0 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:69 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: Pathology:
   Station 7 and 11 specimens pending.
   Imaging: New CXR today for comparison with:
   PORTABLE CHEST, [**2117-12-11**].
   CLINICAL INFORMATION: Right lower lobe mass.
   FINDINGS:
   Comparison is made to the prior study from [**2117-12-10**].
   Endotracheal tube terminates approximately 2.4 cm above the carina.
   There is
   patchy consolidation of the right lower lobe as well as a moderate
   right
   pleural effusion. There is mild left lower lobe atelectasis and a small
   left
   pleural effusion. There is mild interval worsening of the appearance of
   the
   chest. There are increased interstitial markings, which could be
   consistent
   with mild congestive failure. There is mild prominence of the central
   pulmonary vasculature. Heart is enlarged.
   Microbiology: [**2117-12-7**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2117-12-7**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2117-12-7**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {BETA
   STREPTOCOCCI, NOT GROUP A} INPATIENT
   [**2117-12-7**]  MRSA SCREEN MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN
   RESISTANT STAPH AUREUS} INPATIENT
   [**2117-12-7**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2117-12-7**] 8:16 pm SPUTUM      Source: Endotracheal.
                               **FINAL REPORT [**2117-12-9**]**
      GRAM STAIN (Final [**2117-12-7**]):
         [**9-12**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
      RESPIRATORY CULTURE (Final [**2117-12-9**]):
         RARE GROWTH Commensal Respiratory Flora.
         BETA STREPTOCOCCI, NOT GROUP A.    SPARSE GROWTH.
   ECG: No new.
   Assessment and Plan
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   76F with no PMH, longtime smoker, presenting with shortness of breath,
   chest pain, and nausea, now transferred to [**Hospital1 1**] MICU for further
   management of right lung and vocal cord masses.
   # Ventilation and Airway
   Plan for extubation today on hold with no leak with cuff down and pt
   unable to vocalize. Bloody secretions are concerning, however appear
   mild.
   - Continue nasal cannula
   - Stop dexamethasone, if agreeable to ENT/IP
   # Right Lung Mass, possible LRTI and Effusion
   Likely squamous given pathology and report with airway collapse and
   LRTI.
   - Restart heparin
   - Treat empirically for necrotizing pneumonia for now given
   multi-density appearance on CT- clinda and ceftriaxone. Continue until
   more information from specimens on Friday or resulting culture data.
   # Vocal cord mass
   Likely benign polyp, given OSH [**Location (un) 103**]. Thus, relationship to lung
   disease: Polyposis correlates with squamous cancer. Other
   possibilities: Discrete processes, metastases need to be entertained.
   - Restart Diet
   - Obtain tissue samples for [**Hospital1 **] pathology to review
   - Determine if resection necessary with IP, Sp&Sw, patient comfort.
   # Mediastinal Lymphadenopathy
   Likely secondary to above process.
   - Await results
   # Hypertension
   - Start lisinopril 5 mg QD today
   # Bradycardia and hyponea
   Unclear significance. Doesn
t make sense that was obstructive because
   bradycardia. Will have to watch.
   # Mental Status
   Very pleasant and clear presently.
   # Anemia. Chronic inflammation/disease picture
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-12-7**] 07:31 PM
   Arterial Line - [**2117-12-8**] 10:14 PM
   PICC Line - [**2117-12-9**] 09:30 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Patient
   Code status: Full code
   Disposition: Floor today

2117-12-12 11:31:00 Physician Attending Progress Note
Chief Complaint: 76 yr woman from OSH for Rx, Tx Lung/Vocal Cord Mass
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2117-12-11**] 03:06 PM
   Extubated in PM with good outcome. Breathing spontaneously with no
   distress
   Had bradycardia during sleep which resolved with awakening
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2117-12-11**] 08:00 PM
   Ceftriaxone - [**2117-12-12**] 12:01 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2117-12-11**] 02:50 PM
   Famotidine (Pepcid) - [**2117-12-12**] 07:46 AM
   Heparin Sodium (Prophylaxis) - [**2117-12-12**] 07:46 AM
   Other medications:
   Dexameth 10 mg, Colace, Nicotine Patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-12**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.2
   HR: 78 (31 - 78) bpm
   BP: 166/70(108) {123/49(75) - 169/76(111)} mmHg
   RR: 18 (18 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,630 mL
                                                                    323 mL
   PO:
             TF:
   IVF:
                                                                  1,630 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    600 mL
   Urine:
                                                                    920 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.39/52/91.[**Numeric Identifier **]/31/4
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ,
   Dullness : R Base), (Breath Sounds: Diminished: R Base, Rhonchorous:
   Scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   141 K/uL
   125 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.4 mEq/L
   33 mg/dL
   105 mEq/L
   140 mEq/L
   27.7 %
   7.1 K/uL
        [image002.jpg]
                             [**2117-12-10**]  03:04 AM
                             [**2117-12-10**]  03:19 AM
                             [**2117-12-10**]  02:04 PM
                             [**2117-12-10**]  03:07 PM
                             [**2117-12-10**]  05:10 PM
                             [**2117-12-11**]  03:05 AM
                             [**2117-12-11**]  03:19 AM
                             [**2117-12-11**]  03:23 PM
                             [**2117-12-12**]  03:23 AM
                             [**2117-12-12**]  03:40 AM
   WBC
   7.4
   6.3
   7.1
   Hct
   25.2
   26.9
   28.9
   27.7
   Plt
   138
   150
   141
   Cr
   0.6
   0.5
   0.6
   0.5
   TCO2
   35
   32
   29
   32
   33
   Glucose
   149
   150
   142
   135
   125
   Other labs: PT / PTT / INR:15.7/27.9/1.4, CK / CKMB /
   Troponin-T:12/3/0.01, ALT / AST:[**4-1**], Alk Phos / T Bili:66/0.2,
   Differential-Neuts:84.1 %, Lymph:7.7 %, Mono:8.0 %, Eos:0.0 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:69 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR - Unchanged
   Microbiology: MRSA Screen +
   Assessment and Plan
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   76F with no PMH, longtime smoker, presenting with shortness of breath,
   chest pain, and nausea, now transferred to [**Hospital1 1**] MICU for further
   management of right lung and vocal cord masses.
   # Ventilation and Airway
   Extubated successfully
   - Continue Dexamethasone, defer length of therapy to ENT/IP
   # Vocal cord mass
   Appears to be a benign polyp.
   - Restart Diet
   - FU path from [**Hospital1 1**]
   - Followup path from OSH; attempt to obtain tissue samples for [**Hospital1 **] path
   review (they are supposed to fax today)
   - Social Work Consult re: Family coping for potential new diagnosis.
   # Right Lung Mass, possible LRTI and Effusion
   Concerning for Squamous Cell Carcinoma. Preliminary path points toward
   squamous cell carcinoma.
   - Treat empirically for necrotizing post-obstructive pneumonia for now
   given multi-density appearance on CT- clinda and ceftriaxone.
   # Mediastinal Lymphadenopathy
    Secondary to above processes
 mass with nodal spread, versus
   secondary to infection. Awaiting path
    # Anemia. Chronic inflammation/disease picture
   # HBP -Start on low dose ACE, titrate as needed on floor
    # FEN: No IVF, replete electrolytes, NPO in case of procedure
   tomorrow.
    # Prophylaxis: Subcutaneous heparin, H2B.
   # Access:
   Multi Lumen - [**2117-12-7**] 07:31 PM
   18 Gauge - [**2117-12-7**] 07:31 PM
    Arterial Line - [**2117-12-8**] 10:14 PM
   # Communication: Husband, children.
    # [**Name2 (NI) 129**]:  Full (discussed with husband)
    # Disposition: To Floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-12-7**] 07:31 PM
   Arterial Line - [**2117-12-8**] 10:14 PM
   PICC Line - [**2117-12-9**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes